US06677463B1
In the process of the present invention, artemisinin and the catalyst, polyhydroxy compound or cation exchange resin were stirred in 1,4-dioxan or tetrahydrofuran for 5 minutes. Sodium borohydride was added slowly at room temperature (20-35° C.) and the reaction mixture was stirred for about 0.5-2 hours at room temperature. After completion of the reduction of artemisinin, without workup or the isolation of the dihydroartemisinin, succinic anhydride was added in the presence of a base at room temperature (20-35° C.). The reaction mixture was stirred further for about 1-3 hours at room temperature (20-35° C.). After completion of the esterification reaction, cold water was added. The Applicants experimentally found that if the pH of the solution is maintained between 6-7, it is conducive for extraction with ethyl acetate n-hexane mixture. Hence, the pH of the solution is adjusted between 6 to 7 by adding acetic acid. The solution having pH of 6-7 was then extracted with mixture of ethyl acetate n-hexane (3-4 times). The combined extract was washed with water. The ethyl acetate-hexane extract was dried over anhydrous sodium sulphate and removal of the solvent furnished impure artesunic acid. Silica gel column chromatography (1:4-5 ratio) of the impure artesunic acid using 20-30% ethyl acetate in n-hexane as an eluant furnished pure artesunic acid in 85-96% w/w yield.

reactant | artemisinin | C[C@@H]1CC[C@H]2[C@H](C(=O)O[C@H]3[C@@]24[C@H]1CC[C@@](O3)(OO4)C)C | C15H22O5
reactant | Sodium borohydride | [BH4-].[Na+]
reactant | dihydroartemisinin | C[C@@H]1CC[C@H]2[C@H]([C@H](O[C@H]3[C@@]24[C@H]1CCC(O3)(OO4)C)O)C | C15H24O5
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | artesunic acid | C[C@@H]1CC[C@H]2[C@H]([C@@H](O[C@H]3[C@@]24[C@H]1CC[C@](O3)(OO4)C)OC(=O)CCC(=O)O)C | C19H28O8
